US07414061B2
4-[2-Benzyloxymethyl-1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 63, 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (200 mg, 0.58 mmol) using 4-fluorobenzotrifluoride instead of 4-fluoroacetophenone was converted to the title compound (38 mg, 13%) which was obtained as a light yellow gum. MS: m/e=490.1 [M+H]+.

reactant | 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.58 mmol, 200 mg | C(C1=CC=CC=C1)OCC=1NC=C(N1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 4-[2-Benzyloxymethyl-1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 38 mg, 13% | C(C1=CC=CC=C1)OCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C28H22F3N3O2
